US07135480B2
3-Cyano-1-(4-imidazol-1-yl-benzoyl)-pyrrolo[1,2-a]quinoline
A mixture of 3-cyano-(4-fluoro-benzoyl)-pyrrolo[1,2-a]quinoline (8 mg, 0.025 mmol), pottasium carbonate (10 mg, 0.072 mmol) and imidazole (5 mg, 0.073 mmol) were heated in 500 μL of DMF overnight. The reaction mixture was cooled to room temperature, diluted with 10 mL of ethyl acetate, washed with water (3×10 mL), saturated NaCl and the organic layer was dried over anhydrous Na2SO4, filtered and evaporated. The crude was purified by chromatography (3% methanol/chloroform) to yield the title compound (6.9 mg, 75%). 1H NMR (CDCl3): 8.21 (dt, J=7.80, 1.20 Hz, 2H), 8.08 (d, J=8.72 Hz, 1H), 8.02 (s, 1H), 7.87 (dd, J=7.81, 1.82 Hz, 1H), 7.73 (m, 2H), 7.60 (m, 4H), 7.46 (s, 1H), 7.42 (t, J=1.24 Hz, 1H), 7.30 (s, 1H).

reactant | 3-cyano-(4-fluoro-benzoyl)-pyrrolo[1,2-a]quinoline | 0.025 mmol, 8 mg | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)F)=O | C20H11FN2O
reactant | carbonate | 0.072 mmol, 10 mg | C([O-])([O-])=O
reactant | imidazole | 0.073 mmol, 5 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3-Cyano-1-(4-imidazol-1-yl-benzoyl)-pyrrolo[1,2-a]quinoline | 6.9 mg, 75% | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)N2C=NC=C2)=O | C23H14N4O
